US08080541B2
Intermediate AB: 2-Pyrrolidin-1-yl-cyclobutylamine hydrochloride (mixture of diastereomers)
(2-Pyrrolidin-1-yl-cyclobutyl)-carbamic acid benzyl ester (intermediate AA, 475 mg, 1.7 mmol) was dissolved in 25 mL methanol and 4N HCl in dioxane (870 mL, 3.4 mmol) and palladium on charcoal (10%, 184 mg, 0.17 mmol) were added. The reaction mixture was hydrogenated at room temperature with a H2-balloon over night. The palladium on charcoal was filtered off and the solvent was evaporated. The crude product was used without any further purification, light yellow semisolid (525 mg, 99%). The 2 diastereomers were not separated.

reactant | (2-Pyrrolidin-1-yl-cyclobutyl)-carbamic acid benzyl ester | 1.7 mmol, 475 mg | C(C1=CC=CC=C1)OC(NC1C(CC1)N1CCCC1)=O | C16H22N2O2
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 3.4 mmol, 870 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 25 mL | CO | CH4O
catalyst | palladium on charcoal | 0.17 mmol, 184 mg | [Pd] | Pd
product | 2-Pyrrolidin-1-yl-cyclobutylamine hydrochloride | Cl.N1(CCCC1)C1C(CC1)N | InChI=1S/C8H16N2.ClH/c9-7-3-4-8(7)10-5-1-2-6-10;/h7-8H,1-6,9H2;1H
